### PR TITLE
Porting to HB 

### PR DESCRIPTION
**Pull request by gares**
This Pull Request is about porting the hierarchy of hand declared algebraic structures to the language of [hierarchy-builder](https://github.com/math-comp/hierarchy-builder).

Rules for contributing to the *documentation* of this PR:
- Tick the boxes down here when:
  - the file is taken by you to work on its documentation,
  - when it is complete (changelog included).
- Add your commits here **(no force push)**
- All commits you push must compile.

Tasks:
- Use the [graph of MC files](https://math-comp.github.io/htmldoc_for_hb/libgraph_colored.html?pr=733) with live info about this PR in order to pick your next task (the dependency graph is generated by this [branch](https://github.com/math-comp/math-comp/tree/hb_deps) which is slightly broken to maximize parallelization from where we stand)
  -  blue nodes are taken by someone :construction:
  - green nodes are ported
    - solid green background means finished
    - yellow background mean compiles :white_check_mark:
- A file containing no Structure and no Canonical should just work and requires no doc update.
- A file with Canonical but no Structure requires using HB.instance instead but no doc update.
- A file containing Structure requires doc update.

Progress:
- [x] countalg.v finished (9 Structure, 153 Canonical)
  - [ ] :construction: countalg.v taken
  - [x] :white_check_mark: countalg.v compiles but needs more work
- [x] finalg.v finished (11 Structure, 358 Canonical)
  - [ ] :construction: finalg.v taken
  - [x] :white_check_mark: finalg.v compiles but needs more work
- [x] fraction.v finished (0 Structure, 52 Canonical)
  - [ ] :construction: fraction.v taken
  - [x] :white_check_mark: fraction.v compiles but needs more work
- [x] intdiv.v finished (0 Structure, 4 Canonical)
  - [ ] :construction: intdiv.v taken
  - [x] :white_check_mark: intdiv.v compiles but needs more work
- [x] interval.v finished (1 Structure, 26 Canonical)
  - [ ] :construction: interval.v taken
  - [x] :white_check_mark: interval.v compiles but needs more work
- [x] matrix.v finished (0 Structure, 96 Canonical)
  - [ ] :construction: matrix.v taken
  - [x] :white_check_mark: matrix.v compiles but needs more work
- [x] mxalgebra.v finished (2 Structure, 17 Canonical)
  - [ ] :construction: mxalgebra.v taken
  - [x] :white_check_mark: mxalgebra.v compiles but needs more work
- [x] mxpoly.v finished (0 Structure, 8 Canonical)
  - [ ] :construction: mxpoly.v taken
  - [x] :white_check_mark: mxpoly.v compiles but needs more work
- [x] polydiv.v finished (0 Structure, 2 Canonical)
  - [ ] :construction: polydiv.v taken
  - [x] :white_check_mark: polydiv.v compiles but needs more work
- [x] poly.v finished (0 Structure, 89 Canonical)
  - [ ] :construction: poly.v taken
  - [x] :white_check_mark: poly.v compiles but needs more work
- [x] polyXY.v finished (0 Structure, 5 Canonical)
  - [ ] :construction: polyXY.v taken
  - [x] :white_check_mark: polyXY.v compiles but needs more work
- [x] rat.v finished (0 Structure, 44 Canonical)
  - [ ] :construction: rat.v taken
  - [x] :white_check_mark: rat.v compiles but needs more work
- [x] ring_quotient.v finished (6 Structure, 55 Canonical)
  - [ ] :construction: ring_quotient.v taken
  - [x] :white_check_mark: ring_quotient.v compiles but needs more work
- [x] ssralg.v finished (27 Structure, 149 Canonical)
  - [ ] :construction: ssralg.v taken
  - [x] :white_check_mark: ssralg.v compiles but needs more work
- [x] ssrint.v finished (0 Structure, 29 Canonical)
  - [ ] :construction: ssrint.v taken
  - [x] :white_check_mark: ssrint.v compiles but needs more work
- [x] ssrnum.v finished (8 Structure, 201 Canonical)
  - [ ] :construction: ssrnum.v taken
  - [x] :white_check_mark: ssrnum.v compiles but needs more work
- [x] vector.v finished (3 Structure, 56 Canonical)
  - [ ] :construction: vector.v taken
  - [x] :white_check_mark: vector.v compiles but needs more work
- [x] zmodp.v finished (0 Structure, 27 Canonical)
  - [ ] :construction: zmodp.v taken
  - [x] :white_check_mark: zmodp.v compiles but needs more work
- [x] character.v finished (2 Structure, 13 Canonical)
  - [ ] :construction: character.v taken
  - [x] :white_check_mark: character.v compiles but needs more work
- [x] classfun.v finished (0 Structure, 58 Canonical)
  - [ ] :construction: classfun.v taken
  - [x] :white_check_mark: classfun.v compiles but needs more work
- [x] inertia.v finished (0 Structure, 5 Canonical)
  - [ ] :construction: inertia.v taken
  - [x] :white_check_mark: inertia.v compiles but needs more work
- [x] integral_char.v finished (0 Structure, 1 Canonical)
  - [ ] :construction: integral_char.v taken
  - [x] :white_check_mark: integral_char.v compiles but needs more work
- [x] mxabelem.v finished (2 Structure, 11 Canonical)
  - [ ] :construction: mxabelem.v taken
  - [x] :white_check_mark: mxabelem.v compiles but needs more work
- [x] mxrepresentation.v finished (3 Structure, 85 Canonical)
  - [ ] :construction: mxrepresentation.v taken
  - [x] :white_check_mark: mxrepresentation.v compiles but needs more work
- [x] vcharacter.v finished (0 Structure, 10 Canonical)
  - [ ] :construction: vcharacter.v taken
  - [x] :white_check_mark: vcharacter.v compiles but needs more work
- [x] algC.v finished (0 Structure, 89 Canonical)
  - [ ] :construction: algC.v taken
  - [x] :white_check_mark: algC.v compiles but needs more work
- [x] algebraics_fundamentals.v finished (0 Structure, 0 Canonical)
  - [ ] :construction: algebraics_fundamentals.v taken
  - [x] :white_check_mark: algebraics_fundamentals.v compiles but needs more work
- [x] algnum.v finished (0 Structure, 21 Canonical)
  - [ ] :construction: algnum.v taken
  - [x] :white_check_mark: algnum.v compiles but needs more work
- [x] closed_field.v finished (0 Structure, 0 Canonical)
  - [ ] :construction: closed_field.v taken
  - [x] :white_check_mark: closed_field.v compiles but needs more work
- [x] cyclotomic.v finished (0 Structure, 0 Canonical)
  - [ ] :construction: cyclotomic.v taken
  - [x] :white_check_mark: cyclotomic.v compiles but needs more work
- [x] falgebra.v finished (3 Structure, 61 Canonical)
  - [ ] :construction: falgebra.v taken
  - [x] :white_check_mark: falgebra.v compiles but needs more work
- [x] fieldext.v finished (1 Structure, 138 Canonical)
  - [ ] :construction: fieldext.v taken
  - [x] :white_check_mark: fieldext.v compiles but needs more work
- [x] finfield.v finished (0 Structure, 39 Canonical)
  - [ ] :construction: finfield.v taken
  - [x] :white_check_mark: finfield.v compiles but needs more work
- [x] galois.v finished (1 Structure, 40 Canonical)
  - [ ] :construction: galois.v taken
  - [x] :white_check_mark: galois.v compiles but needs more work
- [x] separable.v finished (0 Structure, 0 Canonical)
  - [ ] :construction: separable.v taken
  - [x] :white_check_mark: separable.v compiles but needs more work
- [x] action.v finished (1 Structure, 29 Canonical)
  - [ ] :construction: action.v taken
  - [x] :white_check_mark: action.v compiles but needs more work
- [x] automorphism.v finished (0 Structure, 5 Canonical)
  - [ ] :construction: automorphism.v taken
  - [x] :white_check_mark: automorphism.v compiles but needs more work
- [x] fingroup.v finished (1 Structure, 16 Canonical)
  - [ ] :construction: fingroup.v taken
  - [x] :white_check_mark: fingroup.v compiles but needs more work
- [x] gproduct.v finished (0 Structure, 28 Canonical)
  - [ ] :construction: gproduct.v taken
  - [x] :white_check_mark: gproduct.v compiles but needs more work
- [x] morphism.v finished (3 Structure, 14 Canonical)
  - [ ] :construction: morphism.v taken
  - [x] :white_check_mark: morphism.v compiles but needs more work
- [x] perm.v finished (0 Structure, 23 Canonical)
  - [ ] :construction: perm.v taken
  - [x] :white_check_mark: perm.v compiles but needs more work
- [x] presentation.v finished (0 Structure, 0 Canonical)
  - [ ] :construction: presentation.v taken
  - [x] :white_check_mark: presentation.v compiles but needs more work
- [x] quotient.v finished (0 Structure, 14 Canonical)
  - [ ] :construction: quotient.v taken
  - [x] :white_check_mark: quotient.v compiles but needs more work
- [x] abelian.v finished (2 Structure, 8 Canonical)
  - [ ] :construction: abelian.v taken
  - [x] :white_check_mark: abelian.v compiles but needs more work
- [x] alt.v finished (0 Structure, 6 Canonical)
  - [ ] :construction: alt.v taken
  - [x] :white_check_mark: alt.v compiles but needs more work
- [x] burnside_app.v finished (0 Structure, 24 Canonical)
  - [ ] :construction: burnside_app.v taken
  - [x] :white_check_mark: burnside_app.v compiles but needs more work
- [x] center.v finished (0 Structure, 7 Canonical)
  - [ ] :construction: center.v taken
  - [x] :white_check_mark: center.v compiles but needs more work
- [x] commutator.v finished (0 Structure, 4 Canonical)
  - [ ] :construction: commutator.v taken
  - [x] :white_check_mark: commutator.v compiles but needs more work
- [x] cyclic.v finished (0 Structure, 4 Canonical)
  - [ ] :construction: cyclic.v taken
  - [x] :white_check_mark: cyclic.v compiles but needs more work
- [x] extraspecial.v finished (0 Structure, 1 Canonical)
  - [ ] :construction: extraspecial.v taken
  - [x] :white_check_mark: extraspecial.v compiles but needs more work
- [x] extremal.v finished (2 Structure, 4 Canonical)
  - [ ] :construction: extremal.v taken
  - [x] :white_check_mark: extremal.v compiles but needs more work
- [x] finmodule.v finished (0 Structure, 27 Canonical)
  - [ ] :construction: finmodule.v taken
  - [x] :white_check_mark: finmodule.v compiles but needs more work
- [x] frobenius.v finished (0 Structure, 0 Canonical)
  - [ ] :construction: frobenius.v taken
  - [x] :white_check_mark: frobenius.v compiles but needs more work
- [x] gfunctor.v finished (4 Structure, 14 Canonical)
  - [ ] :construction: gfunctor.v taken
  - [x] :white_check_mark: gfunctor.v compiles but needs more work
- [x] gseries.v finished (0 Structure, 0 Canonical)
  - [ ] :construction: gseries.v taken
  - [x] :white_check_mark: gseries.v compiles but needs more work
- [x] hall.v finished (0 Structure, 0 Canonical)
  - [ ] :construction: hall.v taken
  - [x] :white_check_mark: hall.v compiles but needs more work
- [x] jordanholder.v finished (0 Structure, 8 Canonical)
  - [ ] :construction: jordanholder.v taken
  - [x] :white_check_mark: jordanholder.v compiles but needs more work
- [x] maximal.v finished (2 Structure, 7 Canonical)
  - [ ] :construction: maximal.v taken
  - [x] :white_check_mark: maximal.v compiles but needs more work
- [x] nilpotent.v finished (0 Structure, 8 Canonical)
  - [ ] :construction: nilpotent.v taken
  - [x] :white_check_mark: nilpotent.v compiles but needs more work
- [x] pgroup.v finished (0 Structure, 9 Canonical)
  - [ ] :construction: pgroup.v taken
  - [x] :white_check_mark: pgroup.v compiles but needs more work
- [x] primitive_action.v finished (0 Structure, 1 Canonical)
  - [ ] :construction: primitive_action.v taken
  - [x] :white_check_mark: primitive_action.v compiles but needs more work
- [x] sylow.v finished (0 Structure, 0 Canonical)
  - [ ] :construction: sylow.v taken
  - [x] :white_check_mark: sylow.v compiles but needs more work
- [x] bigop.v finished (4 Structure, 35 Canonical)
  - [ ] :construction: bigop.v taken
  - [x] :white_check_mark: bigop.v compiles but needs more work
- [x] binomial.v finished (0 Structure, 0 Canonical)
  - [ ] :construction: binomial.v taken
  - [x] :white_check_mark: binomial.v compiles but needs more work
- [x] choice.v finished (1 Structure, 5 Canonical)
  - [ ] :construction: choice.v taken
  - [x] :white_check_mark: choice.v compiles but needs more work
- [x] div.v finished (0 Structure, 0 Canonical)
  - [ ] :construction: div.v taken
  - [x] :white_check_mark: div.v compiles but needs more work
- [x] eqtype.v finished (0 Structure, 5 Canonical)
  - [ ] :construction: eqtype.v taken
  - [x] :white_check_mark: eqtype.v compiles but needs more work
- [x] finfun.v finished (2 Structure, 1 Canonical)
  - [ ] :construction: finfun.v taken
  - [x] :white_check_mark: finfun.v compiles but needs more work
- [x] fingraph.v finished (0 Structure, 2 Canonical)
  - [ ] :construction: fingraph.v taken
  - [x] :white_check_mark: fingraph.v compiles but needs more work
- [x] finset.v finished (0 Structure, 13 Canonical)
  - [ ] :construction: finset.v taken
  - [x] :white_check_mark: finset.v compiles but needs more work
- [x] fintype.v finished (0 Structure, 6 Canonical)
  - [ ] :construction: fintype.v taken
  - [x] :white_check_mark: fintype.v compiles but needs more work
- [x] generic_quotient.v finished (3 Structure, 26 Canonical)
  - [ ] :construction: generic_quotient.v taken
  - [x] :white_check_mark: generic_quotient.v compiles but needs more work
- [x] order.v finished (9 Structure, 501 Canonical)
  - [ ] :construction: order.v taken
  - [x] :white_check_mark: order.v compiles but needs more work
- [x] path.v finished (0 Structure, 0 Canonical)
  - [ ] :construction: path.v taken
  - [x] :white_check_mark: path.v compiles but needs more work
- [x] prime.v finished (0 Structure, 1 Canonical)
  - [ ] :construction: prime.v taken
  - [x] :white_check_mark: prime.v compiles but needs more work
- [x] seq.v finished (0 Structure, 4 Canonical)
  - [ ] :construction: seq.v taken
  - [x] :white_check_mark: seq.v compiles but needs more work
- [x] ssrAC.v finished (0 Structure, 1 Canonical)
  - [ ] :construction: ssrAC.v taken
  - [x] :white_check_mark: ssrAC.v compiles but needs more work
- [x] ssrbool.v finished (0 Structure, 0 Canonical)
  - [ ] :construction: ssrbool.v taken
  - [x] :white_check_mark: ssrbool.v compiles but needs more work
- [x] ssreflect.v finished (4 Structure, 6 Canonical)
  - [ ] :construction: ssreflect.v taken
  - [x] :white_check_mark: ssreflect.v compiles but needs more work
- [x] ssrfun.v finished (0 Structure, 0 Canonical)
  - [ ] :construction: ssrfun.v taken
  - [x] :white_check_mark: ssrfun.v compiles but needs more work
- [x] ssrmatching.v finished (0 Structure, 0 Canonical)
  - [ ] :construction: ssrmatching.v taken
  - [x] :white_check_mark: ssrmatching.v compiles but needs more work
- [x] ssrnat.v finished (0 Structure, 4 Canonical)
  - [ ] :construction: ssrnat.v taken
  - [x] :white_check_mark: ssrnat.v compiles but needs more work
- [x] ssrnotations.v finished (0 Structure, 0 Canonical)
  - [ ] :construction: ssrnotations.v taken
  - [x] :white_check_mark: ssrnotations.v compiles but needs more work
- [x] tuple.v finished (1 Structure, 25 Canonical)
  - [ ] :construction: tuple.v taken
  - [x] :white_check_mark: tuple.v compiles but needs more work
- [x] all_ssreflect.v finished 
  - [ ] :construction: all_ssreflect.v taken
  - [x] :white_check_mark: all_ssreflect.v compiles but needs more work
- [x] all_fingroup.v finished
  - [ ] :construction: tuple.v taken
  - [x] :white_check_mark: all_fingroup.v compiles but needs more work
- [x] all_algebra.v finished
  - [ ] :construction: all_algebra.v taken
  - [x] :white_check_mark: all_algebra.v compiles but needs more work
- [x] all_solvable.v finished
  - [ ] :construction: all_solvable.v taken
  - [x] :white_check_mark: all_solvable.v compiles but needs more work
- [x] all_field.v finished
  - [ ] :construction: all_field.v taken
  - [x] :white_check_mark: all_field.v compiles but needs more work
- [x] all_character.v finished
  - [ ] :construction: all_character.v taken
  - [x] :white_check_mark: all_character.v compiles but needs more work
- [x] all.v finished
  - [ ] :construction: all_character.v taken
  - [x] :white_check_mark: all_character.v compiles but needs more work

### Overlays

* https://github.com/math-comp/Abel/pull/75
* https://github.com/coq-community/coqeal/pull/57
* https://github.com/proux01/coquelicot
* https://github.com/coq-community/bits/pull/20
* https://github.com/math-comp/finmap/pull/84
* https://github.com/coq-community/fourcolor/pull/44
* https://github.com/coq-community/gaia/pull/11
* https://github.com/coq-community/graph-theory/pull/25
* https://gitlab.inria.fr/coqinterval/interval/-/tree/hierarchy-builder
* https://github.com/math-comp/mczify/pull/39
* https://github.com/math-comp/multinomials/pull/42
* https://github.com/math-comp/odd-order/pull/37
* https://github.com/math-comp/real-closed/pull/38
* https://github.com/coq-community/reglang/pull/46
* https://github.com/math-comp/algebra-tactics/pull/71

### CODE REVIEW

**Comment by CohenCyril** [comment]
:construction:  :heavy_check_mark:  :white_check_mark:

File: mathcomp/algebra/mxalgebra.v [hunk 1]
```diff
@@ -2474,7 +2474,11 @@ Lemma LUP_card_GL n : n > 0 ->
   #|'GL_n[F]| = (#|F| ^ 'C(n, 2) * \prod_(1 <= i < n.+1) (#|F| ^ i - 1))%N.
 Proof.
 case: n => // n' _; set n := n'.+1; set p := #|F|.
-rewrite cardsT /= card_sub /GRing.unit /= big_add1 /= -triangular_sum -/n.
+(* FIXME: Gring.unit_subdef had to be unfolded *)
```
Comment (CohenCyril) [inline mathcomp/algebra/mxalgebra.v:2477]:
```suggestion
(* FIXME: extra unfold: Gring.unit_subdef had to be unfolded *)
```

File: mathcomp/algebra/mxpoly.v [hunk 2]
```diff
@@ -872,7 +873,7 @@ apply/eqmxP/andP; split; last first.
   apply/sub_kermxP/eqmx0P; rewrite !addsmxMr [in X in (_ + X)%MS]mulrC.
   by rewrite !rmorphM/= !mulmxA !mulmx_ker !mul0mx !addsmx0 submx_refl.
 move: cpq => /(congr1 (horner_mx g))/=; rewrite rmorph1 rmorphD/=.
-rewrite -[X in (X <= _)%MS]mulr1 => <-; rewrite mulrDr mulrC addrC.
+rewrite -[X in (X <= _)%MS]mulr1 => <-; rewrite mulrDr [p * u]mulrC addrC.
```
Comment (CohenCyril) [inline mathcomp/algebra/mxpoly.v:876]:
```suggestion
(* FIXME: rewrite pattern *)
rewrite -[X in (X <= _)%MS]mulr1 => <-; rewrite mulrDr [p * u]mulrC addrC.
```

**Comment by gares** [comment]
Nix CI is broken:

> error: value is a list while a set was expected, at /home/runner/work/math-comp/math-comp/default.nix:13:1

**Comment by gares** [comment]
@CohenCyril is this gitlab CI pipeline a new thing?

File: mathcomp/algebra/ssrint.v [hunk 3]
```diff
@@ -1581,8 +1581,12 @@ End Absz.
 
 Module Export IntDist.
 
+(* This notation is supposed to work even if the ssrint library is not Imported.
+   Since we can't rely on the CS database to contain the zmodule instance on
+   int we put the instance by hand in the notation. *)
 Notation "m - n" :=
-  (@GRing.add _ (m%N : int) (@GRing.opp _ (n%N : int))) : distn_scope.
+  (@GRing.add [zmodType of int] (m%N : int)
+    (@GRing.opp [zmodType of int] (n%N : int))) : distn_scope.
```
Comment (CohenCyril) [inline mathcomp/algebra/ssrint.v]: You also need to add a `only printing` notation with the holes to preserve the printing upon simplification.

**Comment by gares** [comment]
@CohenCyril @pi8027 can you check if the recent locking in rat helps this example: https://github.com/math-comp/math-comp/pull/733/commits/5e84326f5a6759b1d227f066088988e39e8538ff
I suspect it just gets slowed in this branch, but that it is already problematic.

**Comment by proux01** [comment]
Here is a squashed and rebase branch: https://github.com/math-comp/math-comp/tree/hierarchy-builder-rebased
(but I cannot force push here)

**Comment by ejgallego** [comment]
Out of curiosity, how are compilation times affected?

**Comment by proux01** [comment]
Last figure I remember was nearly a factor two but @gares would know better.

**Comment by proux01** [comment]
@CohenCyril you can now delete yout [hb-ssrnum](https://github.com/CohenCyril/math-comp/tree/hb-ssrnum) branch as it is integrated here

As a consequence, we had to drop support for Coq 8.13 and 8.14, this now only works with:
* Coq 8.15 with HB `master` branch
* Coq 8.16+rc1 with HB `fun_instances` branch
* Coq master with HB `master` branch

**Comment by gares** [comment]
can we give planB another try?

**Comment by proux01** [comment]
> can we give planB another try? (I'm too bad at nix to bring it back)

@CohenCyril do you remember how to set this up in Nix CI? (I probably won't have time to look at it anytime soon)

File: mathcomp/ssreflect/tuple.v [hunk 4]
```diff
@@ -345,20 +345,11 @@ Qed.
...
-
-Definition tuple_countMixin n (T : countType) :=
-  [countMixin of n.-tuple T by <:].
-
-Canonical tuple_countType n (T : countType) :=
-  Eval hnf in CountType (n.-tuple T) (tuple_countMixin n T).
-
-Canonical tuple_subCountType n (T : countType) :=
-  Eval hnf in [subCountType of n.-tuple T].
+(* TODO: try to factor this into a single instance *)
```
Comment (gares) [inline mathcomp/ssreflect/tuple.v:348]:
```suggestion
```

File: mathcomp/ssreflect/order.v [hunk 5]
```diff
@@ -7739,17 +6345,15 @@ Qed.
...
-Definition total : totalPOrderMixin [porderType of n.-tuple T] :=
-  [totalOrderMixin of n.-tuple T by <:].
-Canonical latticeType := LatticeType (n.-tuple T) total.
-Canonical distrLatticeType := DistrLatticeType (n.-tuple T) total.
-Canonical orderType := OrderType (n.-tuple T) total.
+(* FIXME *)
+#[export]
+HB.instance Definition _ (n : nat) (T : finPOrderType disp) :=
+  POrder.on (n.-tuple T).
+(* /FIXME *)
```
Comment (gares) [inline mathcomp/ssreflect/order.v:6352]:
```suggestion
#[export]
HB.instance Definition _ (n : nat) (T : finPOrderType disp) :=
  POrder.on (n.-tuple T).
```

File: mathcomp/ssreflect/order.v [hunk 6]
```diff
@@ -7551,55 +6177,40 @@ Proof.
...
+#[export]
+HB.instance Definition _ (n : nat) (T : finLatticeType disp) :=
+  Lattice.on (n.-tuple T).
+#[export]
+HB.instance Definition _ (n : nat) (T : finDistrLatticeType disp) :=
+  DistrLattice.on (n.-tuple T).
+#[export]
+HB.instance Definition _ (n : nat) (T : finCDistrLatticeType disp) :=
+  CTBDistrLattice.on (n.-tuple T).
+(* /FIXME *)
```
Comment (gares) [inline mathcomp/ssreflect/order.v:6200]:
```suggestion
#[export]
HB.instance Definition _ (n : nat) (T : finPOrderType disp) :=
  POrder.on (n.-tuple T).
#[export]
HB.instance Definition _ (n : nat) (T : finLatticeType disp) :=
  Lattice.on (n.-tuple T).
#[export]
HB.instance Definition _ (n : nat) (T : finDistrLatticeType disp) :=
  DistrLattice.on (n.-tuple T).
#[export]
HB.instance Definition _ (n : nat) (T : finCDistrLatticeType disp) :=
  CTBDistrLattice.on (n.-tuple T).
```

File: mathcomp/ssreflect/order.v [hunk 7]
```diff
@@ -6844,18 +5533,23 @@ Proof. by []. Qed.
 
 End POrder.
 
+(* FIXME *)
+#[export]
+HB.instance Definition _ (T : finPOrderType disp1)
+  (T' : finPOrderType disp2) := POrder.on (T * T').
+(* /FIXME *)
```
Comment (gares) [inline mathcomp/ssreflect/order.v:5540]:
```suggestion
#[export]
HB.instance Definition _ (T : finPOrderType disp1)
  (T' : finPOrderType disp2) := POrder.on (T * T').
```

File: mathcomp/ssreflect/order.v [hunk 8]
```diff
@@ -6518,53 +5239,36 @@ Definition compl x : T * T' := (~` x.1, ~` x.2).
...
+#[export]
+HB.instance Definition _ (T : finLatticeType disp1)
+  (T' : finLatticeType disp2) := Lattice.on (T * T').
+#[export]
+HB.instance Definition _ (T : finDistrLatticeType disp1)
+  (T' : finDistrLatticeType disp2) := DistrLattice.on (T * T').
+#[export]
+HB.instance Definition _ (T : finCDistrLatticeType disp1)
+  (T' : finCDistrLatticeType disp2) := CTBDistrLattice.on (T * T').
+(* /FIXME *)
```
Comment (gares) [inline mathcomp/ssreflect/order.v:5262]:
```suggestion
#[export]
HB.instance Definition _ (T : finPOrderType disp1)
  (T' : finPOrderType disp2) := POrder.on (T * T').
#[export]
HB.instance Definition _ (T : finLatticeType disp1)
  (T' : finLatticeType disp2) := Lattice.on (T * T').
#[export]
HB.instance Definition _ (T : finDistrLatticeType disp1)
  (T' : finDistrLatticeType disp2) := DistrLattice.on (T * T').
#[export]
HB.instance Definition _ (T : finCDistrLatticeType disp1)
  (T' : finCDistrLatticeType disp2) := CTBDistrLattice.on (T * T').
```

File: mathcomp/ssreflect/order.v [hunk 9]
```diff
@@ -6479,18 +5195,23 @@ Variable (T : distrLatticeType disp1) (T' : distrLatticeType disp2).
...
+  DistrLattice.on (T * T').
 
-Canonical tbDistrLatticeType
-          (T : tbDistrLatticeType disp1) (T' : tbDistrLatticeType disp2) :=
-  [tbDistrLatticeType of T * T'].
+#[export]
+HB.instance Definition _
+  (T : tbDistrLatticeType disp1) (T' : tbDistrLatticeType disp2) :=
+  DistrLattice.on (T * T').
+(* /FIXME *)
```
Comment (gares) [inline mathcomp/ssreflect/order.v:5214]:
```suggestion
#[export]
HB.instance Definition _
  (T : tbDistrLatticeType disp1) (T' : tbDistrLatticeType disp2) :=
  DistrLattice.on (T * T').
```

File: mathcomp/ssreflect/order.v [hunk 10]
```diff
@@ -6479,18 +5195,23 @@ Variable (T : distrLatticeType disp1) (T' : distrLatticeType disp2).
...
 
-Canonical bDistrLatticeType
-          (T : bDistrLatticeType disp1) (T' : bDistrLatticeType disp2) :=
-  [bDistrLatticeType of T * T'].
+(* FIXME: the canonical (t)bDistrLatticeType instances of products should be  *)
+(*        automatically generated. *)
+#[export]
+HB.instance Definition _
+  (T : bDistrLatticeType disp1) (T' : bDistrLatticeType disp2) :=
+  DistrLattice.on (T * T').
```
Comment (gares) [inline mathcomp/ssreflect/order.v:5208]:
```suggestion
#[export]
HB.instance Definition _
  (T : bDistrLatticeType disp1) (T' : bDistrLatticeType disp2) :=
  DistrLattice.on (T * T').
```

Comment (gares) [reply mathcomp/ssreflect/order.v:5208]: I don't think this is easy enough to do, and it does not seem regular (the same verbosity arises in other places, and the properties of the parameters don't necessarily transfer to the container)

Comment (gares) [reply mathcomp/ssreflect/order.v:5208]: Sorry for the noise, I think I misunderstood the comment

File: mathcomp/ssreflect/order.v (hunk 6 above)
Comment (gares) [reply mathcomp/ssreflect/order.v:6200]: apparently finitude is transported

**Comment by gares** [comment]
@pi8027 we did review some FIXME in order.v and left some comments, please look at them and decide what to do.

File: mathcomp/ssreflect/order.v (hunk 6 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/order.v:6200]: Yes, but not automatically, this is typically an example of https://github.com/math-comp/hierarchy-builder/issues/197

File: mathcomp/ssreflect/order.v [hunk 11]
```diff
@@ -6692,20 +5399,24 @@ Proof. by case: x => [t v]/= in u *; rewrite ltEsig/= lexx/= tagged_asE. Qed.
 
 End POrder.
 
+(* FIXME *)
+#[export]
+HB.instance Definition _ (T : finPOrderType disp1)
+  (T' : T -> finPOrderType disp2) := POrder.on {t : T & T' t}.
+(* /FIXME *)
```
[the remark this answers is not in the document]
Comment (CohenCyril) [reply mathcomp/ssreflect/order.v:5406]: Same, this is typically an example of https://github.com/math-comp/hierarchy-builder/issues/197

File: mathcomp/ssreflect/order.v (hunk 8 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/order.v:5262]: Same, this is typically an example of https://github.com/math-comp/hierarchy-builder/issues/197

File: mathcomp/ssreflect/order.v (hunk 9 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/order.v:5214]: Same, this is typically an example of https://github.com/math-comp/hierarchy-builder/issues/197

File: mathcomp/ssreflect/order.v (hunk 10 above)
Comment (CohenCyril) [reply mathcomp/ssreflect/order.v:5208]: Same, this is a variation of https://github.com/math-comp/hierarchy-builder/issues/197 (as described in the associated zulip conversation)

File: mathcomp/algebra/ssralg.v [hunk 12]
```diff
@@ -2039,62 +1978,40 @@ Section ScaleFun.
...
-Coercion base : rmorphism >-> Additive.axiom.
-Coercion mixin : rmorphism >-> multiplicative.
-Coercion apply : map >-> Funclass.
-Notation RMorphism fM := (Pack (Phant _) fM).
-Notation AddRMorphism fM := (pack fM id).
-Notation "{ 'rmorphism' fRS }" := (map (Phant fRS))
+Module RMorphismExports.
+Module RMorphism.
+Definition map (R S : ringType) (phRS : phant (R -> S)) := RMorphism.type R S.
+Definition apply (R S : ringType) (phRS : phant (R -> S)) := @RMorphism.sort R S.
```
Comment (pi8027) [inline mathcomp/algebra/ssralg.v:2005]: Why don't we remove (or keep) the phantom parameter everywhere? This `apply` does not respect the uniform inheritance condition, and type-checking terms like `RMorphism.apply _ f` (where `f` has type `{rmorphism R -> S}`) leaves the phantom argument as a unification variable.

Comment (proux01) [reply mathcomp/algebra/ssralg.v:2005]: The phantom parameter is indeed removed, this apply thing is only meant for some backward compatibility purpose. Maybe should it be deprecated?

Comment (proux01) [reply mathcomp/algebra/ssralg.v:2005]: I guess we could change the notation from `{additive fUV }` to `{additive U -> V }` with appropriate levels for `U` and `V` without breaking much, but introducing this intermediary `map` just sounds easier.

Comment (pi8027) [reply mathcomp/algebra/ssralg.v:2005]: That should indeed be possible, but `U` and `V` will be more verbose than before (which is an obvious downside of reverse coercions compared to phantom types).

Comment (proux01) [reply mathcomp/algebra/ssralg.v:2005]: Indeed, so we should probably keep it as it is.

Comment (pi8027) [reply mathcomp/algebra/ssralg.v:2005]: Then, I think we should also have the phantom parameter in the record type `RMorphism.type`. I will try to produce an example supporting this claim.

Comment (pi8027) [reply mathcomp/algebra/ssralg.v:2005]: I managed to produce only a very artificial example, but this shows that we can lose nice notations like `{additive _}` by unification:
```coq
From mathcomp Require Import all_ssreflect all_algebra.

Section S.

Variables (R S : ringType) (f : {rmorphism R -> S}).

Goal False.
match constr:(GRing.raddfD f) with
  | GRing.raddfD ?f =>
    let ty := type of f in idtac ty
end.
(*
In MathComp 1.15:
{additive R -> S}
In MathComp 2.0:
(GRing.Additive.type R S)
*)
Abort.

End S.
```

Comment (proux01) [reply mathcomp/algebra/ssralg.v:2005]: Maybe we could add an only printing notation? (but at this point it might be better to craft an actual notation for `{additive R -> S` not using the phantom type)

Comment (pi8027) [reply mathcomp/algebra/ssralg.v:2005]: Also, unification does not propagate the phantom parameter.
```
Goal False.
evar (R' : zmodType).
evar (S' : zmodType).
evar (ph : phant (?R' -> ?S')).
evar (f' : @Additive.map ?R' ?S' ?ph).
unify (GRing.Additive.sort ?f') (GRing.RMorphism.sort f).
(*
  ph := ?ph : phant (R -> S)
  f' := f : Additive.map (U:=R) (V:=S) ?ph
  ============================
*)
```

Comment (proux01) [reply mathcomp/algebra/ssralg.v:2005]: Ok, I'll try the notation without phantom type.

Comment (proux01) [reply mathcomp/algebra/ssralg.v]: Unfortunately, it doesn't fix your above example since we now have:
```Coq
(GRing.Additive.type_ R S)
```
The only fix I can think of is the addition of an only printing notation:
```
Notation "{ 'additive' R -> S }" := (GRing.Additive.type_ R S) (only printing) : type_scope.
```
(note that then, we should also add a similar only printing notation for polynomials, matrices,...)
Not sure it's worth the effort.

Comment (pi8027) [reply mathcomp/algebra/ssralg.v]: Thanks! I think that is a bug of HB. :(

**Comment by proux01** [comment]
I did a last rebase to squash a few things and check that all commits do compile. From now on, we only cherry-pick from master (or push directly here for HB changes).

File: mathcomp/algebra/ssralg.v [hunk 13]
```diff
@@ -1,20 +1,157 @@
...
 (*   Francois Garillot, Georges Gonthier, Assia Mahboubi, Laurence Rideau     *)
 (*                                                                            *)
 (* This file defines for each Structure (Zmodule, Ring, etc ...) its type,    *)
 (* its packers and its canonical properties :                                 *)
 (*                                                                            *)
+(* This file defines the following algebraic structures:                      *)
+(*  zsemimodType == additive abelian monoid                                   *)
+(*                  The HB class is called Zsemimodule.                       *)
+(*      zmodType == additive abelian group (semi ZModule with an opposite)    *)
+(*                  The HB class is called Zmodule.                           *)
```
Comment (pi8027) [inline mathcomp/algebra/ssralg.v:21]: The name `zmodType` comes from the fact that any additive abelian group forms a module where scalars are Z. But, scalar multiplication by Z is not definable for additive abelian monoids in general. Is `zsemimodType` really a reasonable name? (Mathematically, wouldn't that be an N-semimodule?)

File: CHANGELOG_UNRELEASED.md [hunk 14]
```diff
@@ -24,10 +76,119 @@ The format is based on [Keep a Changelog](https://keepachangelog.com/en/1.0.0/).
...
+    `TBLattice`, `DistrLattice`, `BDistrLattice`, `TBDistrLattice`,
+    `CBDistrLattice`, `CTBDDistrLattice`, `Total`, `FinPOrder`, `FinLattice`,
+    `FinDistrLattice`, `FinCDistrLattice`, `FinTotal`
+  + `PcanPOrderMixin` is replaced by `Order.PcanPartial`
+  + `CanPOrderMixin` is replaced by `Order.CanPartial`
+  + `MonoTotalMixin` is replaced by `MonoTotal`
+  + `IsoLatticeMixin` is replaced by `Order.IsoLattice`
+
+- in `generic_quotient.v`,
+  + structures quotType and eqQuotType ported to HB
```
Comment (gares) [inline CHANGELOG_UNRELEASED.md:165]:
```suggestion
  + structures `quotType` and `eqQuotType` ported to HB
```
